US07230011B2
4-Methoxybenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester
By a method similar to Example 31, using 4-methoxybenzenesulfonyl chloride (248 mg, 1.2 mmol) and 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole (230 mg, 1.0 mmol), 0.2 N sodium hydroxide (5.5 mL, 1.1 mmol) gave 225 mg of crude product. The crude product was recrystallized from ethyl acetate to give 195 mg (49%) of the title compound as a white powder: mp=186-187° C.; MS(m/e): 400 (M+); Calculated for C21H24N2O4S: Calcd: C, 62.98; H, 6.04; N, 6.99. Found: C, 63.10; H, 6.18; N, 7.04.

reactant | 4-methoxybenzenesulfonyl chloride | 1.2 mmol, 248 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole | 1.0 mmol, 230 mg | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)O | C14H18N2O
reactant | sodium hydroxide | 1.1 mmol, 0.2 N, 5.5 mL | [OH-].[Na+]
product | 4-Methoxybenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester | 195 mg, 49% | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)OS(=O)(=O)C1=CC=C(C=C1)OC | C21H24N2O4S
